US04626375
1-benzoyl-4-n-butyl-cyclohexane (Ib)
To a stirred mixture of 500 ml abs. benzene and 240 g (1.8 mol) AlCl3 at 20° C., within 60 minutes, are added, dropwise, 302 g (1.5 mol) of 4-n-butyl-cyclohexanecarboxylic acid chloride (cis-trans mixture). The clear orange-yellow solution is then heated to 40° C. for 1 to 2 hours, cooled and poured onto 500 ml ice/concentrated HCl. The organic phase is separated, washed with water, with 10% aqueous potassium hydroxide solution and washed with water again. The aqueous phase is extracted two to three times with benzene or ether. The combined organic extracts are dried over Na2So4 and the solvent is removed in vacuum.

reactant | AlCl3 | 1.8 mol, 240 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-n-butyl-cyclohexanecarboxylic acid chloride | 1.5 mol, 302 g | C(CCC)C1CCC(CC1)C(=O)Cl | C11H19ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-benzoyl-4-n-butyl-cyclohexane | C(C1=CC=CC=C1)(=O)C1CCC(CC1)CCCC | C17H24O
